US05395846
To 1-hydroxytricyclo[3.3.1.13,7 ]decan-2-amine (0.47 g; 0.0028 mole), [prepared via a procedure of W. V. Curran and R. B. Angler, J. of Org. Chem., 94(11 ), 3668-70 (1969)] in dichloromethane (45 ml) is added triphenylmethyl chloride (0.78 g; 0.0028 mole) in dichloromethane (5 ml). This mixture is refluxed for 7 hours and then more triphenylmethyl chloride (0.35 g) is added and the reaction refluxed overnight. The reaction is stripped to dryness and the products separated via flash chromatography (eluted with 25% ethyl acetate/hexane) to obtain N-trityl-1-hydroxytricyclo[3.3.1.13,7 ]decan-2-amine which is used directly in step B.

reactant | 1-hydroxytricyclo[3.3.1.13,7 ]decan-2-amine | 0.0028 mole, 0.47 g | OC12C(C3CC(CC(C1)C3)C2)N | C10H17NO
reactant | triphenylmethyl chloride | 0.0028 mole, 0.78 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | triphenylmethyl chloride | 0.35 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
solvent | dichloromethane | 45 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | N-trityl-1-hydroxytricyclo[3.3.1.13,7 ]decan-2-amine | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC1C2(CC3CC(CC1C3)C2)O | C29H31NO
